US04816452
b. Ethyl 4-bromo-(Z)-2-(2,6-dichlorobenzyloxyimino)-3-oxobutyrate
Ethyl (Z)-2-(2,6-dichlorobenzyloxyimino)-3-oxobutyrate (5.8 g) was reacted with bromine (0.94 ml) as described in Example 4c to give the title compound (7.2 g), δH (CDCl3) 1.31 (3H, t), 4.35 (2H, s), 4.45 (2H, q), 5.73 (2H, s), and 7.43 (3H, m).

reactant | Ethyl (Z)-2-(2,6-dichlorobenzyloxyimino)-3-oxobutyrate | 5.8 g | ClC1=C(CO\N=C(/C(=O)OCC)\C(C)=O)C(=CC=C1)Cl | C13H13Cl2NO4
reactant | bromine | 0.94 ml | BrBr | Br2
product | Ethyl 4-bromo-(Z)-2-(2,6-dichlorobenzyloxyimino)-3-oxobutyrate | 7.2 g | BrCC(/C(/C(=O)OCC)=N/OCC1=C(C=CC=C1Cl)Cl)=O | C13H12BrCl2NO4
